US07067529B2
To a stirred solution of 6-hydroxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (840 mg, 2.28 mmol) in anhydrous N,N-dimethylformamide (25 mL) was added potassium carbonate (1.89 g, 13.6 mmol) and butyl iodide (0.78 mL, 6.83 mmol) dropwise. The reaction mixture was heated with stirring at 85° C. for 18 hrs. The solvent was evaporated and the residue was diluted with ethyl acetate (50 mL) and water (50 mL). The aqueous phase was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (50 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 20% ethyl acetate/hexane) afforded 6-Butoxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (560 mg, 56% yield) as a colorless oil.

reactant | 6-hydroxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 2.28 mmol, 840 mg | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)O)OC)CC1=CC(=CC=C1)OC | C21H23NO5
reactant | potassium carbonate | 13.6 mmol, 1.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | butyl iodide | 6.83 mmol, 0.78 mL | C(CCC)I | C4H9I
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 6-Butoxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 560 mg, 56% yield | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OCCCC)OC)CC1=CC(=CC=C1)OC | C25H31NO5
